US09359362B2
Ethyl 7-(4-cyanophenyl)-2-[(ethoxycarbonyl)amino]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate
Under an atmosphere of argon protective gas, ethyl 2-[(benzyloxy)carbonyl]amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate (125 mg, 207 μmol) was dissolved in a mixture of THF (0.9 ml), water (0.6 ml) and ethanol (3.8 ml). After addition of solid lithium hydroxide (14.9 mg, 620 μmol, 3 eq.), the reaction mixture was heated at 55 C for 1.5 h. In an ice-bath, the mixture was acidified with 1 N hydrochloric acid (4.1 ml) and then purified by preparative HPLC (Kromasil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (4.8 mg, 5% of theory).

reactant | ethyl 2-[(benzyloxy)carbonyl]amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | 207 μmol, 125 mg | C(C1=CC=CC=C1)OC(=O)NC1=NN2C(N(C(=C(C2C2=CC=C(C=C2)C#N)C(=O)OCC)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C31H25F3N6O4
reactant | lithium hydroxide | 620 μmol, 14.9 mg, 3 eq. | [OH-].[Li+]
reactant | hydrochloric acid | 1 N, 4.1 ml | Cl | ClH
solvent | THF | 0.9 ml | C1CCOC1 | C4H8O
solvent | water | 0.6 ml | O | H2O
solvent | ethanol | 3.8 ml | C(C)O | C2H6O
product | Ethyl 7-(4-cyanophenyl)-2-[(ethoxycarbonyl)amino]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)NC(=O)OCC)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C26H23F3N6O4
